US06169107A
The reaction was carried out in a manner similar to Reference Example 13 a) except for using 2.80 g (12.4 mmol) of 4-benzyloxy-2-methylbenzaldehyde, 6.39 g (49.5 mmol) of ethyl azide acetate, 3.37 g (49.5 mmol) of sodium ethoxide and 50 ml of ethanol. Ethyl 3-(4-benzyloxy-2-methylphenyl)-2-azidopropenoate was thus obtained in the yield of 3.24 g.

reactant | 4-benzyloxy-2-methylbenzaldehyde | 12.4 mmol, 2.80 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
reactant | ethyl azide acetate | 49.5 mmol, 6.39 g | C(C)(=O)O.C(C)N=[N+]=[N-]
reactant | sodium ethoxide | 49.5 mmol, 3.37 g | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3-(4-benzyloxy-2-methylphenyl)-2-azidopropenoate | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=C(C(=O)OCC)N=[N+]=[N-])C | C19H19N3O3
